* ============================================
* Test: access_energy.spice
* Cell: 9T_03v3
* PDK: GF180mcuD
* ============================================
* One transient covering a write (WL high 5n-20n, mirrors write_run.spice:
* Q 1->0) followed by a read/compute access (A high 25n-45n, mirrors
* read_delay.spice). A sits low through the write phase so read-port
* current doesn't leak into the write energy integral, then pulses high
* once WL has already fallen. Reports dynamic energy per operation,
* integrated from the VDD supply.

* -- includes --
.include /workspace/analog/characterization/pvt.spice
.include /workspace/analog/testbench/9T_tb.spice

* -- stimulus --
VVDD  vdd  0 {VDD_CORNER}
VVSS  vss  0 0
VWL   wl   0 PULSE(0 {VDD_CORNER} 5n 0.1n 0.1n 15n 50n)     ; write pulse: high 5n-20n
VWBL  wbl  0 0                                              ; WBL LOW pulls Q down
VWBLB wblb 0 {VDD_CORNER}                                   ; WBLB HIGH pulls QB up
VA    a    0 PULSE(0 {VDD_CORNER} 25n 0.1n 0.1n 20n 50n)    ; read pulse: high 25n-45n
CRBL  rbl  0 20f

* instantaneous power drawn FROM the supply -- ngspice's i(vsource) measures
* current INTO the source's positive terminal, opposite of delivered current,
* hence the negation (so energy_write/energy_read come out positive).
Bpwr pwr 0 v = -v(vdd)*i(vvdd)

* -- initial conditions --
.ic v(q)={VDD_CORNER} v(qb)=0    ; initial state: Q=1, QB=0

* -- sim --
.control
  save all

  tran 0.1n 50n uic

  * --- dynamic energy per operation, integrated from the VDD rail ---
  echo
  meas tran energy_write INTEG v(pwr) FROM=0  TO=20n
  meas tran energy_read  INTEG v(pwr) FROM=20n TO=50n
  echo

  * --- save .raw for python parsing ---
  write /workspace/analog/characterization/9t/results/access_energy.raw all

.endc

.end
